US07053089B2
Indium trichloride (2.2 g, 10 mmol) and THF (50 mL) were combined under nitrogen and cooled to −70° C. Cyclopropylmagnesium bromide solution (33 mL, 30 mmol, 0.92 M) was added dropwise while maintaining the reaction temperature ≦−60° C. After the addition was complete, the reaction was stirred 0.5 h with cooling then 0.5 h with the cooling bath removed. The resulting solution was added via cannula to a refluxing solution of ethyl-4-iodobenzoate (5.5 g, 20 mmol), trans-dichlorobis(triphenylphosphine)palladium(II) (421 mg, 0.60 mmol) and THF (100 mL) under nitrogen. After 24 h, the contents of the reaction flask were cooled and the solvent was removed in vacuo. Water (100 mL) and 5% KHSO4 were added and the mixture was extracted with CH2Cl2 (3×100 mL). The combined organic extracts were washed with brine, dried with NASO4 and filtered. The filtrate was removed in vacuo and the remaining residue was purified by flash column chromatography (hexane:EtOAc 95:5) to give 4-cyclopropyl-benzoic acid ethyl ester as an orange oil.

reactant | Indium trichloride | 10 mmol, 2.2 g | [Cl-].[Cl-].[Cl-].[In+3]
reactant | Cyclopropylmagnesium bromide | 30 mmol, 0.92 M, 33 mL | C1(CC1)[Mg]Br
reactant | ethyl-4-iodobenzoate | 20 mmol, 5.5 g | C(C)OC(C1=CC=C(C=C1)I)=O | C9H9IO2
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 0.60 mmol, 421 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-cyclopropyl-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C1CC1)=O | C12H14O2
